US06548671B2
Quinoxaline-2-carboxylic acid [4-(5-amino-[1,3,4]oxadiazol-2-yl )-1-benzyl-7-fluoro-2-hydroxy-7-methyl-octyl]-amide
To a solution of quinoxaline-2-carboxylic acid (1-benzyl-7-fluoro-4-hydrazinocarbonyl-2-hydroxy-7-methyl-octyl)-amide (110 mg, 0.228 mmol) in dioxane (0.5 mL) and water (0.5 mL) was added cyanogen bromide (31 mg, 0.296 mmol) and potassium hydrogencarbonate (31 mg, 0.310 mmol). The reaction was heated to reflux for 1 hour then cooled to ambient temperature. The dioxane/water was removed by adding benzene (5 mL) and concentrating (2×). The remaining solid was dissolved in ethyl acetate and water. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organics were dried over sodium sulfate and concentrated. Recrystallization of the crude product using a mixture of ethyl acetate, hexanes and methanol gave the title compound (64 mg, 55%).

reactant | quinoxaline-2-carboxylic acid (1-benzyl-7-fluoro-4-hydrazinocarbonyl-2-hydroxy-7-methyl-octyl)-amide | 0.228 mmol, 110 mg | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(=O)NN)O)NC(=O)C1=NC2=CC=CC=C2N=C1 | C26H32FN5O3
reactant | cyanogen bromide | 0.296 mmol, 31 mg | N#CBr | CBrN
reactant | potassium hydrogencarbonate | 0.310 mmol, 31 mg | C(O)([O-])=O.[K+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | Quinoxaline-2-carboxylic acid [4-(5-amino-[1,3,4]oxadiazol-2-yl )-1-benzyl-7-fluoro-2-hydroxy-7-methyl-octyl]-amide | 64 mg, 55% | NC1=NN=C(O1)C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)O)CCC(C)(C)F | C27H31FN6O3
